US08809336B2
A 4M solution of hydrochloric acid in dioxane (10 ml) was added dropwise to a solution of 4-(4-chlorophenyl)-4-methylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester (142 mg, 0.42 mmol) in methanol (10 ml). The reaction was stirred overnight at room temperature. After this period of time, the solvents were concentrated to give [4-(4-chlorophenyl)-piperidin-4-ylmethyl]-methylamine bis-hydrochloride (132 mg, 0.42 mmol, 100%). This compound was used in the subsequent step without further purification. LC-MS (LCT2) m/z 239 [M+H+], Rt 0.53 min.

reactant | hydrochloric acid | Cl | ClH
reactant | 4-(4-chlorophenyl)-4-methylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.42 mmol, 142 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNC)C1=CC=C(C=C1)Cl | C18H27ClN2O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | [4-(4-chlorophenyl)-piperidin-4-ylmethyl]-methylamine bis-hydrochloride | 0.42 mmol, 132 mg, 100% | Cl.Cl.ClC1=CC=C(C=C1)C1(CCNCC1)CNC | InChI=1S/C13H19ClN2.2ClH/c1-15-10-13(6-8-16-9-7-13)11-2-4-12(14)5-3-11;;/h2-5,15-16H,6-10H2,1H3;2*1H
